US07799823B2
Preparation of (3R,S)-(+)-4-(1-sec-Butyl-4,4-dimethyl-2-oxo-pyrrolidin-3-yloxy)-2-trifluoromethylbenzonitrile
Solid NaH (60 wt % dispersion in mineral oil, 16.6 g, 416 mmol) was added portion wise over 25 min to a cold (0-5° C.) sol'n of methanesulfonic acid 3-sec-butylcarbamoyl-3-(4-cyano-3-trifluoromethylphenoxy)-2,2-dimethylpropyl ester (104 g, 208 mmol) in 400 mL dry THF under an N2 atmosphere. The reaction mixture was allowed to warm to 20-25° C. and then stirred at this temp. for 90 h. The reaction mixture was quenched by adding it to 500 mL cold (5-10° C.) sat'd aq. NH4Cl. The phases were separated and the aqueous was extracted with ethyl acetate (“EtOAc”) (2×500 mL). The pale yellow organic was conc'd under vac (40-45° C.) to an orange-yellow oil/gum (83 g). The crude product was purified by extensive silica gel (230-400 mesh) column chromatography (EtOAc/Heptane) followed by crystallization (EtOAc/Heptane). The pure desired diastereomer was isolated as a white granular solid MS+: 355. m.p. 101-102° C. Optical rotation [α]58925=+180.10(in methanol) Elemental analysis results: Obsv'd (Theor.): C, 61.03 (61.01); H, 6.02 (5.97); N, 7.88 (7.91); F, 15.98 (16.08). HPLC analysis: Chiral purity: 100%.

reactant | NaH | 416 mmol, 16.6 g | [H-].[Na+]
reactant | methanesulfonic acid 3-sec-butylcarbamoyl-3-(4-cyano-3-trifluoromethylphenoxy)-2,2-dimethylpropyl ester | 208 mmol, 104 g | C(C)(CC)NC(=O)C(C(COS(=O)(=O)C)(C)C)OC1=CC(=C(C=C1)C#N)C(F)(F)F | C19H25F3N2O5S
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | (3R,S)-(+)-4-(1-sec-Butyl-4,4-dimethyl-2-oxo-pyrrolidin-3-yloxy)-2-trifluoromethylbenzonitrile | [C@H](C)(CC)N1C([C@@H](C(C1)(C)C)OC1=CC(=C(C#N)C=C1)C(F)(F)F)=O | C18H21F3N2O2
